US07622583B2
4-Chloro-N-[5-chloro-2-(4-chloro-benzoyl)-pyridin-3-yl]-3-trifluoromethyl-benzenesulfonamide
The title compound was prepared by procedure analogous to that described in Example 29 using N-(2-bromo-5-chloro-pyridin-3-yl)-4-chloro-N-methoxymethyl-3-trifluoromethyl-benzenesulfonamide and 4-chloro-N-methoxy-N-methyl-benzamide 1H NMR (400 MHz, CDCl3) δ10.61 (s, 1 H), 8.37 (m, 1 H), 8.16 (m, 1 H), 8.09 (m, 1 H), 7.84 (m, 1 H), 7.77-7.75 (m, 2 H), 7.53 (m, 1 H), 742-7.40 (m, 2 H), 7.23 (m, 1 H) MS: (M+H)/z=509.0.

reactant | N-(2-bromo-5-chloro-pyridin-3-yl)-4-chloro-N-methoxymethyl-3-trifluoromethyl-benzenesulfonamide | BrC1=NC=C(C=C1N(S(=O)(=O)C1=CC(=C(C=C1)Cl)C(F)(F)F)COC)Cl | C14H10BrCl2F3N2O3S
reactant | 4-chloro-N-methoxy-N-methyl-benzamide | ClC1=CC=C(C(=O)N(C)OC)C=C1 | C9H10ClNO2
product | 4-Chloro-N-[5-chloro-2-(4-chloro-benzoyl)-pyridin-3-yl]-3-trifluoromethyl-benzenesulfonamide | ClC1=C(C=C(C=C1)S(=O)(=O)NC=1C(=NC=C(C1)Cl)C(C1=CC=C(C=C1)Cl)=O)C(F)(F)F | C19H10Cl3F3N2O3S
